US06911445B2
trans-3-(1H-Indol-3-yl)-cyclopentylamine
This compound was prepared in the same manner as for Intermediate 20, using trans-benzyl-3-(1H-indol-3-yl)-cyclopentylamine (0.8 g, 2.8 mmol) and ammonium formate (1.1 g, 17.5 mmol) to afford 0.49 g (89%) of the desired product as a thick oil, which solidified upon standing: MS (ESI) m/z 201 [M+H]+.

reactant | trans-benzyl-3-(1H-indol-3-yl)-cyclopentylamine | 2.8 mmol, 0.8 g | C(C1=CC=CC=C1)N[C@@H]1C[C@H](CC1)C1=CNC2=CC=CC=C12 | C20H22N2
reactant | ammonium formate | 17.5 mmol, 1.1 g | C(=O)[O-].[NH4+]
product | trans-3-(1H-Indol-3-yl)-cyclopentylamine | 0.49 g, 89% | N1C=C(C2=CC=CC=C12)[C@@H]1C[C@H](CC1)N | C13H16N2
